US08426437B2
8-[(2-Methylamino-ethyl)-prop-2-ynyl-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-propyl carboxylate hydrochloride (156)
This compound is prepared according to synthesis 139, from 54 mg (0.1 mmol) of 8-{[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-prop-2-ynyl-sulfamoyl}-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-propyl carboxylate and 2.5 mL (5 mmol) of a 2M solution of hydrochloric acid in diethyl ether to give, after filtration, 42 mg (87%) of 8-[(2-methylamino-ethyl)-prop-2-ynyl-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-propyl carboxylate hydrochloride in the form of a white solid.

reactant | 8-{[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-prop-2-ynyl-sulfamoyl}-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-propyl carboxylate | 0.1 mmol, 54 mg | C(C)(C)(C)OC(=O)N(CCN(S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3)CC#C)C.C(CC)C(=O)[O-]
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 8-[(2-Methylamino-ethyl)-prop-2-ynyl-sulfamoyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-propyl carboxylate hydrochloride | CNCCN(S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3)CC#C.Cl.C(CC)C(=O)O | InChI=1S/C17H18N4O3S.C4H8O2.ClH/c1-3-9-21(10-8-18-2)25(23,24)12-4-5-15-14(11-12)13-6-7-19-16(13)17(22)20-15;1-2-3-4(5)6;/h1,4-7,11,18-19H,8-10H2,2H3,(H,20,22);2-3H2,1H3,(H,5,6);1H
